US08802679B2
Ethyl (2E)-3-[6-(4-{5-[3-({[N-(tert-butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperazin-1-yl)-5-methylpyridin-3-yl]acrylate (250 mg) was dissolved in EtOH (4 ml), and 10% Pd/C (80 mg) was added thereto under a hydrogen atmosphere at 1 atm, followed by stirring at room temperature overnight. The mixture was filtrated using Celite as a filtration assistant to remove the catalyst, and then the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/EtOAc) to obtain ethyl 3-[6-(4-{5-[3-({[N-(tert-butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperazin-1-yl)-5-methylpyridin-3-yl]propanoate (163 mg).

reactant | Ethyl (2E)-3-[6-(4-{5-[3-({[N-(tert-butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperazin-1-yl)-5-methylpyridin-3-yl]acrylate | 250 mg | C(C)(C)(C)OC(=O)NCC(=O)N(C)CC=1C=C(C=CC1)C=1C=NC(=NC1)N1CCN(CC1)C1=C(C=C(C=N1)/C=C/C(=O)OCC)C | C34H43N7O5
solvent | EtOH | 4 ml | CCO | C2H6O
catalyst | Pd/C | 80 mg | [Pd] | Pd
product | ethyl 3-[6-(4-{5-[3-({[N-(tert-butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperazin-1-yl)-5-methylpyridin-3-yl]propanoate | 163 mg | C(C)(C)(C)OC(=O)NCC(=O)N(C)CC=1C=C(C=CC1)C=1C=NC(=NC1)N1CCN(CC1)C1=C(C=C(C=N1)CCC(=O)OCC)C | C34H45N7O5
